US07279600B2
Trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester
The title compound was prepared by reacting 3-chloro-4-hydroxybenzaldehyde (5 g, 31.9 mmol) with trifluoromethanesulfonic anhydride (7.0 mL, 11.7 g, 41.5 mmol) according to Method D to yield 9.15 g (100%) of a yellow oil which was used directly in the next step without purification: 1H NMR: δ 7.92 (1H, d, J=8.48 Hz), 8.07 (1H, dd, J=8.51 Hz, J=1.93 Hz), 8.30 (1H, d, J=1.92 Hz), 10.04 (1H, s).

reactant | 3-chloro-4-hydroxybenzaldehyde | 31.9 mmol, 5 g | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | trifluoromethanesulfonic anhydride | 41.5 mmol, 7.0 mL, 11.7 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester | ClC1=C(C=CC(=C1)C=O)OS(=O)(=O)C(F)(F)F | C8H4ClF3O4S
